US05120843
4-[4,6-Bis(1-pyrrolidinyl)-1,3,5-triazin-2-yl]-1-piperazinehexanol (II/A-45)
A mixture of 6-bromohexanol (0.905 g), 2,6-bis(1-pyrrolidinyl)-4-(1-piperazinyl)-1,3,5-triazine (PCT 86/01797, PREPARATION A-45, 1.517 g), potassium carbonate (0.346 g) and sodium iodide (0.075 g) in acetonitrile (165 ml) are stirred under reflux for 4.5 hr. The mixture is concentrated and the residue is partitioned between methylene chloride and potassium bicarbonate (1N). The phases are separated, the organic phase is washed with water and saline, then filtered through sodium sulfate and concentrated. The residue is chromatographed on silica gel (230 g) packed in methanol/methylene chloride (5/95). Elution is performed with 5% methanol/methylene chloride (3 l) followed by 10% methanol/methylene chloride (2 l). 50 ml fractions are collected, fractions 61-78 are pooled and concentrated to give the title compound.

reactant | 6-bromohexanol | 0.905 g | BrCCCCCCO | C6H13BrO
reactant | 2,6-bis(1-pyrrolidinyl)-4-(1-piperazinyl)-1,3,5-triazine | 1.517 g | N1(CCCC1)C1=NC(=NC(=N1)N1CCNCC1)N1CCCC1 | C15H25N7
reactant | potassium carbonate | 0.346 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.075 g | [I-].[Na+]
solvent | acetonitrile | 165 ml | C(C)#N | C2H3N
product | 4-[4,6-Bis(1-pyrrolidinyl)-1,3,5-triazin-2-yl]-1-piperazinehexanol | N1(CCCC1)C1=NC(=NC(=N1)N1CCCC1)N1CCN(CC1)CCCCCCO | C21H37N7O
